US05773530
To a solution of 3-[2-(2-carboxymethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (2.07 g) in tetrahydrofuran (40 ml) was added dropwise under nitrogen atmosphere a solution of borane-tetrahydrofuran complex in tetrahydrofuran (1M solution, 9.72 ml) at -10° C. over a period of 10 minutes. The reaction mixture was allowed to stir at room temperature for 5.5 hours. Then, the mixture was cooled to 10° C. in an ice bath and treated with 1N hydrochloric acid. The organic layer was separated and the aqueous layer was extracted with dichloromethane. The combined extracts were washed with 1N aqueous sodium hydroxide solution, water, and brine, dried over anhydrous magnesium sulfate, and concentrated in vacuo. The crude material was purified by column chromatography on silica gel (toluene:MeOH=10:1) to give colorless crystals of 3-[2-{2-(2-hydroxyethyl)-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine (1.14 g).

reactant | 3-[2-(2-carboxymethyl-1-cyclohexenyl)-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 2.07 g | C(=O)(O)CC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C25H22N4O3
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 1M, 9.72 ml | O1CCCC1 | C4H8O
product | 3-[2-{2-(2-hydroxyethyl)-1-cyclohexenyl}-3-oxo-2,3-dihydropyridazin-6-yl]-2-phenylpyrazolo[1,5-a]pyridine | 1.14 g | OCCC1=C(CCCC1)N1N=C(C=CC1=O)C=1C(=NN2C1C=CC=C2)C2=CC=CC=C2 | C25H24N4O2
